US05354883
Preparation of methyl E-2-(2-methylphenoxymethyl)phenylglyoxylate oxime
56.8 g (0.2 mol) of methyl 2-(2-methylphenoxymethyl)phenylglyoxylate and 15.2 g (0.22 mol) of hydroxylammonium chloride in 67.5 ml of methanol are refluxed for 6.5 hours. The resulting mixture (of E- and Z-oximes) is cooled to 0° C. and 14.2 g (0.39 mol) of hydrogen chloride are passed in, and the mixture is then stirred at 25° C. for 5 hours. The solvent is removed by distillation under reduced pressure, the residue is taken up in diethyl ether, and the solution is washed with water, dried over sodium sulfate and evaporated to dryness. 55.3 g of solid E isomer (melting point 115° C.) are obtained.

reactant | methyl 2-(2-methylphenoxymethyl)phenylglyoxylate | 0.2 mol, 56.8 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)OC)=O)C=CC=C1 | C17H16O4
reactant | hydroxylammonium chloride | 0.22 mol, 15.2 g | [Cl-].O[NH3+]
reactant | hydrogen chloride | 0.39 mol, 14.2 g | Cl | ClH
solvent | methanol | 67.5 ml | CO | CH4O
product | methyl E-2-(2-methylphenoxymethyl)phenylglyoxylate oxime | 55.3 g | CC1=C(OCC2=C(C=CC=C2)\C(\C(=O)OC)=N/O)C=CC=C1 | C17H17NO4
